2189-11-04 10:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pulmonary embolism, chronic
   hepatitis, HIV/AIDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ABG: 7.43/43/118 using supplemental O2 via  a non-rebreather mask. Now
   on a 50% face tent with O2 sats in the mid 90s.
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Sulfonamides
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2189-11-4**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-11-4**] 05:00 AM
   Other medications:
   HAART, vanco, clinda, primaquin, azithro, prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-4**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 73 (67 - 83) bpm
   BP: 106/67(76) {104/56(69) - 133/82(97)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             192 mL
   PO:
             TF:
   IVF:
   192 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -508 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: 7.43/43/118//4
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Few rales, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   44
   8.3
        [image002.jpg]
                             [**2189-11-4**]  02:28 AM
   TCO2
   29
   Other labs: Alk Phos / T Bili:/6.0, Lactic Acid:1.0 mmol/L, LDH:344
   Imaging: CTA: negative for PE. Ground glass opacities left greater than
   right, LLL greater than LUL. Cavity in anterior basal segment of LLL.
   Assessment and Plan
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) **] [**Name11 (NameIs) **]
   PNEUMONIA)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   RESPIRATORY DISTRESS
   ===========================
   Patient with what started like a typical URI but progressed to chills,
   sweats, and cough productive of green sputum. The sputum has become
   more white with azithromycin started as an outpatient. With elevated
   LDH, concern for PCP but the fact that the patient is much improved
   this AM, argues against PCP.  [**Name10 (NameIs) **] alternative explanation is that he
   developed a bacterial superinfection superimposed on an initial viral
   process. This could explain the cavity as well, if he has a necrotizing
   pneumonia. Alternatively given his drug use hx, the abscess may be old,
   reflecting prior aspiration. Continue present antibiotics, but if he
   continues to get better quickly, I would consider stopping treatment
   for PCP.
   [**Name10 (NameIs) 9239**] continues to improve. Try to change supplemental oxygen to
   nasal cannula.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-11-4**] 12:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2189-11-06 12:41:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, hypoxemia, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has done well post bronch. Comfortable off supplemental oxygen,
   although sats are in low 90's. Afebrile.
   24 Hour Events:
 BRONCHOSCOPY - At [**2189-11-5**] 01:15 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Sulfonamides
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2189-11-4**] 12:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-5**] 05:55 AM
   Vancomycin - [**2189-11-5**] 08:23 AM
   Clindamycin - [**2189-11-6**] 12:30 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2189-11-5**] 02:22 PM
   Midazolam (Versed) - [**2189-11-5**] 02:23 PM
   Heparin Sodium (Prophylaxis) - [**2189-11-6**] 09:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-6**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 70 (50 - 109) bpm
   BP: 102/54(65) {91/46(57) - 125/76(95)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 75 kg
                  Total In:
                                                                    850 mL
                                                                    400 mL
   PO:
                                                                    360 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    490 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    400 mL
   Urine:
                                                                  1,350 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   241 K/uL
   126 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   37.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2189-11-4**]  02:28 AM
                             [**2189-11-5**]  04:11 AM
                             [**2189-11-6**]  05:49 AM
   WBC
   6.4
   13.0
   Hct
   39.4
   37.8
   Plt
   187
   241
   Cr
   0.8
   0.6
   TCO2
   29
   Glucose
   128
   126
   Other labs: ALT / AST:36/34, Alk Phos / T Bili:49/0.4, Lactic Acid:1.0
   mmol/L, LDH:219 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) **] [**Name11 (NameIs) **]
   PNEUMONIA)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   ===================
   Patient doing much better. Comfortable off oxygen. AFebrile. Awaiting
   results from BAL. Assuming PCP and AFB are negative, would consider a
   [**5-4**] week course of clinda for anaerobic abscess.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-11-4**] 12:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments: VAP protocol not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes